US03969322
In accordance with practice of the process of this invention, ten parts of 1-nitro-2-decanone, 5.0 parts of dimethylaminoethanol, and 110 parts of dry benzene are admitted to a reaction vessel wherein they are refluxed for four hours. At the end of this time, there are distilled off from the reaction mixture 44 parts by weight of benzene solvent and 2.0 parts by weight of nitromethane. The remaining benzene is then distilled at atmospheric pressure and 80°C. Thereafter the residual dark oil is distilled at 106°-110°C, at 2mm Hg to yield 8.2 parts by weight of N,N-dimethylaminoethyl nonanoate, a pale yellow liquid having a boiling point of 106°-110°C/2mm and a refractive index ND24 1.4355. (Yield 72%)

reactant | 1-nitro-2-decanone | [N+](=O)([O-])CC(CCCCCCCC)=O | C10H19NO3
reactant | dimethylaminoethanol | CN(C)CCO | C4H11NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-dimethylaminoethyl nonanoate | Yield 72% | C(CCCCCCCC)(=O)OCCN(C)C | C13H27NO2
